US04252801
5.48 G (0.025 mole) of N,N-bis(2,3-epoxypropyl)benzylamine is added to a mixture of 2.70 g (0.025 mole) of benzyl alcohol in 75 ml of dioxane containing 1 equivalent of sodium hydride. The reaction is allowed to cool below 40° with an ice-bath for approximately 1/2 hour and is then heated at reflux overnight. After cooling to room temperature, the entire mixture is poured slowly, with stirring, into 150 ml of water. The aqueous mixture is extracted with 3×125 ml portions of chloroform. The CHCl3 extracts are combined, washed with 200 ml of water and 200 ml of saturated NaCl solution. The CHCl3 layer is then dried over anhydrous NaSO4, evaporated in vacuo to yield 6.1 g (74%) of crude product as a pale yellow oil. The oil is chromatographed on 300 g of neutral Alumina III to give 5.6 g (68%) of 6-[(phenylmethoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol.

reactant | N,N-bis(2,3-epoxypropyl)benzylamine | 0.025 mole | O1C(CN(CC2CO2)CC2=CC=CC=C2)C1 | C13H17NO2
reactant | benzyl alcohol | 0.025 mole, 2.70 g | C(C1=CC=CC=C1)O | C7H8O
reactant | dioxane | 75 ml, 1 equivalent | O1CCOCC1 | C4H8O2
reactant | sodium hydride | [H-].[Na+]
solvent | water | 150 ml | O | H2O
product | 6-[(phenylmethoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol | 5.6 g, 68% | C1(=CC=CC=C1)COCC1OC(CN(C1)CC1=CC=CC=C1)CO | C20H25NO3
